US05959123
(3S, 4R)-3-benzyloxycarbonylamino-4-phenoxy-azetidin-2-one (1.85 g. 5.9 mmole) is hydrogenated with 2 g of 10% palladium on activated carbon in THF (30 ml) and ethyl acetate (30 ml) at 50 psi hydrogen pressure at room temperature for 2 hours. After removal of catalyst by filtration, 810 mg of deprotected (3S, 4R)-3-amino-4-phenoxy-azetidin-2-one is obtained.

reactant | (3S, 4R)-3-benzyloxycarbonylamino-4-phenoxy-azetidin-2-one | 5.9 mmole, 1.85 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N[C@@H]1OC1=CC=CC=C1)=O | C17H16N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 2 g | [Pd] | Pd
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-3-amino-4-phenoxy-azetidin-2-one | 810 mg | N[C@@H]1C(N[C@@H]1OC1=CC=CC=C1)=O | C9H10N2O2
